US04512997
A mixture of 10 g of 4-methoxy-4'-nitrothiobenzanilide [prepared by process of Ann. Chem., Vol. 716 (1968), p. 209-211], 100 ml of ethanol and 15 ml of hydrazine hydrate was heated to reflux and then was allowed to return to room temperature and was filtered. The product was washed with ethanol and dried at 80° C. under reduced pressure to obtain 7.9 g of 4-methoxy-N-(4-nitrophenyl)-benzene-carbohydrazonamide melting at 104° C.

reactant | 4-methoxy-4'-nitrothiobenzanilide | 10 g | COC1=CC=C(C(=S)NC2=CC=C(C=C2)[N+](=O)[O-])C=C1 | C14H12N2O3S
reactant | hydrazine hydrate | 15 ml | O.NN
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 4-methoxy-N-(4-nitrophenyl)-benzene-carbohydrazonamide | 7.9 g | COC1=CC=C(C=C1)C(NC1=CC=C(C=C1)[N+](=O)[O-])=NN | C14H14N4O3
